US06864396B2
A solution of 133 grams of 2,5-bis(4-dodecylbenzoyl)terephthalic acid and 1 L of tetrahydrofuran was treated with 8 grams of 10% palladium on carbon (as a catalyst) and heated to 65° C. for 17 hours in an atmosphere of hydrogen at 270 kPa. The reaction mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give a white solid. The solid was triturated with ethyl acetate, and the residue was dried to give 2,5-bis(4-dodecylbenzyl)terephthalic acid.

reactant | 2,5-bis(4-dodecylbenzoyl)terephthalic acid | 133 grams | C(CCCCCCCCCCC)C1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCCCCCCCCCCC)=O)C=C1 | C46H62O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 8 grams | [Pd] | Pd
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 2,5-bis(4-dodecylbenzyl)terephthalic acid | C(CCCCCCCCCCC)C1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)CCCCCCCCCCCC)C=C1 | C46H66O4
